US04487927
A mixture of 7-[2-(2-aminothiazol-4-yl)-2-ethoxycarbonylmethoxyiminoacetamido]-3-vinyl-3-cephem-4-carboxylic acid (syn isomer) (1.45 g) and sodium bicarbonate (0.63 g) in water (15 ml) was stirred at ambient temperature for 7 days. The reaction mixture was adjusted to pH 6.0 with acetic acid. The solution was subjected to column chromatography on macroporous nonionic adsorption resin "Diaion HP-20" (30 ml) and eluted with water. The eluate was acidified to pH 2.2 with 10% hydrochloric acid under ice-cooling. The precipitates were collected by filtration and dried to give 7-[2-(2-aminothiazol-4-yl)-2-carboxymethoxyiminoacetamido]-3-vinyl-3-cephem-4-carboxylic acid (syn isomer) (0.7 g), which was identified by comparing the physico-chemical data with those of the object compound in Example 90.

reactant | 7-[2-(2-aminothiazol-4-yl)-2-ethoxycarbonylmethoxyiminoacetamido]-3-vinyl-3-cephem-4-carboxylic acid | 1.45 g | NC=1SC=C(N1)C(C(=O)NC1[C@@H]2N(C(=C(CS2)C=C)C(=O)O)C1=O)=NOCC(=O)OCC | C18H19N5O7S2
reactant | sodium bicarbonate | 0.63 g | C([O-])(O)=O.[Na+]
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | water | 15 ml | O | H2O
product | 7-[2-(2-aminothiazol-4-yl)-2-carboxymethoxyiminoacetamido]-3-vinyl-3-cephem-4-carboxylic acid | 0.7 g | NC=1SC=C(N1)C(C(=O)NC1[C@@H]2N(C(=C(CS2)C=C)C(=O)O)C1=O)=NOCC(=O)O | C16H15N5O7S2
